US07618978B2
3-(2-(S)-Dibenzylamino-1-hydroxy-3-phenylpropyl)-4-benzyloxycarbonyl-1-allylpiperazin-2-one
Add to a solution of 4-benzyloxycarbonyl-1-allylpiperazin-2-one (1.1 g, 4.0 mmol) in dry THF (4 mL/mmol) at −78° C. under nitrogen lithium bis(trimethylsilyl)amide (1.OM solution in THF, 4.0 mL, 4.0 mmol) dropwise and stir 30 min. Add 2-(dibenzylamino)-3-phenylpropanal (732 mg, 2.2 mmol) in dry THF (2 mL/mmol) and stir at −78° C. for 45 min. Quench with saturated aqueous ammonium chloride solution. Separate organic layer and wash with water, saturated aqueous sodium chloride solution, dry (magnesium sulfate), concentrate and purify (silica gel chromatography, eluting with 100% hexanes to 1:1 hexanes:ethyl acetate) to give a mixture of four diastereoisomers (836 mg, 62%). Separate the isomers by normal phase HPLC (95:5 hexanes:isopropanol 95/5) to provide:

reactant | 4-benzyloxycarbonyl-1-allylpiperazin-2-one | 4.0 mmol, 1.1 g | C(C1=CC=CC=C1)OC(=O)N1CC(N(CC1)CC=C)=O | C15H18N2O3
reactant | 2-(dibenzylamino)-3-phenylpropanal | 2.2 mmol, 732 mg | C(C1=CC=CC=C1)N(C(C=O)CC1=CC=CC=C1)CC1=CC=CC=C1 | C23H23NO
solvent | THF | C1CCOC1 | C4H8O
product | 3-(2-(S)-Dibenzylamino-1-hydroxy-3-phenylpropyl)-4-benzyloxycarbonyl-1-allylpiperazin-2-one | C(C1=CC=CC=C1)N([C@H](C(O)C1C(N(CCN1C(=O)OCC1=CC=CC=C1)CC=C)=O)CC1=CC=CC=C1)CC1=CC=CC=C1 | C38H41N3O4
